US07566699B2
4-(β-D-Glucopyranosyloxy)-3-{2-[4-(3-hydroxypropoxy)phenyl]ethyl}benzofuran
To a solution of 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-3-{2-[4-(3-hydroxypropoxy)phenyl]ethyl}-benzofuran (20 mg) in methanol (2 mL) was added sodium methoxide (28% methanol solution, 0.006 mL), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure, and the residue was purified by solid phase extraction on ODS (washing solvent: distilled water, eluent: methanol) to give the title compound (14 mg).

reactant | 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-3-{2-[4-(3-hydroxypropoxy)phenyl]ethyl}-benzofuran | 20 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=CC=CC2=C1C(=CO2)CCC2=CC=C(C=C2)OCCCO | C33H38O13
reactant | sodium methoxide | 0.006 mL | C[O-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | 4-(β-D-Glucopyranosyloxy)-3-{2-[4-(3-hydroxypropoxy)phenyl]ethyl}benzofuran | 14 mg | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=CC=CC2=C1C(=CO2)CCC2=CC=C(C=C2)OCCCO | C25H30O9
